US08022062B2
5-Aminomethyl-2-isobutyl-benzothiazole:
Add lithium aluminum hydride (0.78 mL, 0.78 mmol, 1M solution in THF) to 2-isobutyl-benzothiazole-5-carbonitrile (113 mg, 0.52 mmol) in THF (5 mL) and stir for 4 h at room temperature. Add water (0.27 mL), 2N sodium hydroxide (0.27 mL) and water (0.37 mL). Filter the precipitate and wash the filtrate with brine. Dry over Na2SO4 and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (1:1) and then 1M ammonia in methanol/dichloromethane (1:9). Purify the polar fraction by SCX chromatography to give the title compound (63 mg, 55%). MS (ES+) m/z: 221 (M+HE).

reactant | lithium aluminum hydride | 0.78 mmol, 1M, 0.78 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-isobutyl-benzothiazole-5-carbonitrile | 0.52 mmol, 113 mg | C(C(C)C)C=1SC2=C(N1)C=C(C=C2)C#N | C12H12N2S
reactant | water | 0.27 mL | O | H2O
reactant | sodium hydroxide | 2N, 0.27 mL | [OH-].[Na+]
reactant | water | 0.37 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Aminomethyl-2-isobutyl-benzothiazole | 63 mg, 55% | NCC=1C=CC2=C(N=C(S2)CC(C)C)C1 | C12H16N2S
